US07776878B2
(1-Phenyl-ethyl)-(2-phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-amine
100 mg 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine from ex. b) were dissolved in 1 mL dry dimethylformamide (DMF) and 92 mg 1-phenylethyl bromide were added at room temperature. The mixture was stirred for 18 hours (hrs), the DMF was removed under vacuum and the residue purified by chromatography on silica eluting stepwise first with dichloromethane, then dichloromethane/methanol (60:1), then dichloromethane/methanol/ammonia (60:1:0,2). Product containing fractions were pooled and further purified by preparative HPLC-MS.

reactant | 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine | 100 mg | C1(=CC=CC=C1)C1=NC=2C(=NC=C(C2)N)N1 | C12H10N4
reactant | 1-phenylethyl bromide | 92 mg | C1(=CC=CC=C1)C(C)Br | C8H9Br
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (1-Phenyl-ethyl)-(2-phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-amine | C1(=CC=CC=C1)C(C)NC=1C=C2C(=NC1)NC(=N2)C2=CC=CC=C2 | C20H18N4
